US08455534B2
A mixture of (E)-5-bromo-2,3-difluorobenzaldehyde O-methyl oxime (19.65 g, 78.6 mmol), hydrazine hydrate (80 mL), and dry THF (80 mL), was heated at 90° C. for 84 h. Work-up: the organic solvent was evaporated. The resulting mixture was diluted with EtOAc (400 mL), washed with water (150 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (0˜20% EtOAc in petroleum ether) to give 5-bromo-7-fluoro-1H-indazole as a white solid (9.3 g). 1H NMR (300 MHz, CDCl3): δ 13.83 (br, 1H), 8.16 (s, 1H), 7.87 (s, 1H), 7.45 (d, 1H).

reactant | (E)-5-bromo-2,3-difluorobenzaldehyde O-methyl oxime | 78.6 mmol, 19.65 g | CO\N=C\C1=C(C(=CC(=C1)Br)F)F | C8H6BrF2NO
reactant | hydrazine hydrate | 80 mL | O.NN
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 5-bromo-7-fluoro-1H-indazole | 9.3 g | BrC=1C=C2C=NNC2=C(C1)F | C7H4BrFN2
